US06949579B2
N-(6-chloro-1H-indazol-3-yl)-2-thiophenecarboxamide
0.64 cm3 of 2-thiophenecarbonyl chloride is added to 1 g of 6-chloro-1H-indazole-3-amine in 15 cm3 of pyridine, after cooling to about 6° C. with an ice bath, the reaction medium is then allowed to return to room temperature over 17 hours and concentrated to dryness under reduced pressure (2 kPa; 45° C.), and the residue is then taken up in 20 cm3 of ethyl acetate, 20 cm3 of water and 20 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.), and the residue is then purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 15-40 μm; diameter 3 cm), eluting with a dichloromethane/methanol mixture (99/1 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); after drying (90 Pa; 50° C.), 660 mg of N-(6-chloro-1H-indazol-3-yl)-2-thiophenecarboxamide are obtained in the form of a pale yellow solid melting at 215° C.

reactant | 2-thiophenecarbonyl chloride | 0.64 cm3 | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-1H-indazol-3-yl)-2-thiophenecarboxamide | ClC1=CC=C2C(=NNC2=C1)NC(=O)C=1SC=CC1 | C12H8ClN3OS
